US09388193B2
To a stirred solution of (5-hydroxy-1,3-phenylene)dimethanol (7.27 g, 47 mmol, 1 eq.) in 200 mL of acetonitrile at room temperature, 2-(4-bromobutyl)isoindoline-1,3-dione (1.2 eq.) and potassium carbonate (K2CO3, 2 eq.) were slowly added. The resultant mixture was then heated at reflux for 8 hours, after which the volatiles were removed, and the residue was partitioned between EtOAc and water. The EtOAc layer was washed with brine and dried over MgSO4. Evaporation of EtOAc gave 2-(4-(3,5-bis(hydroxymethyl)phenoxy)butyl)isoindoline-1,3-dione (13 g, 78% yield).

reactant | (5-hydroxy-1,3-phenylene)dimethanol | 47 mmol, 7.27 g, 1 eq. | OC=1C=C(C=C(C1)CO)CO | C8H10O3
reactant | 2-(4-bromobutyl)isoindoline-1,3-dione | 1.2 eq. | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
reactant | potassium carbonate | 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-(4-(3,5-bis(hydroxymethyl)phenoxy)butyl)isoindoline-1,3-dione | 13 g, 78% yield | OCC=1C=C(OCCCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)CO | C20H21NO5
